US07488425B2
A mixed solution prepared by mixing 200 mL of diethylamine (Kanto Chemical Co., Ltd.) and 85 mL of 2-methoxyethyl chloride (produced by Kanto Chemical) was placed in an autoclave and reacted at 120° C. for 50 hours. The internal pressure at this time was 353 kPa (3.6 kgf/cm2). After 10 hours, the crystals that settled out were removed by filtration, and the filtrate was subjected to normal-pressure distillation, yielding 66 g of 2-methoxyethyldiethylamine.

reactant | 2-methoxyethyl chloride | 85 mL | COCCCl | C3H7ClO
reactant | diethylamine | 200 mL | C(C)NCC | C4H11N
product | 2-methoxyethyldiethylamine | 66 g | COCCN(CC)CC | C7H17NO
